US04105776
1-[3-(acetamidomethylthio)-2-methylpropanoyl]-L-proline (1.4 g.) and mercuric acetate (1.93 g.) are dissolved in a mixture of acetic acid (25 ml.) and water (25 ml.). After 1 hour stirring on the steam bath, hydrogen sulfide is bubbled through until no more precipitation of mercuric sulfide is observed. The mixture is filtered, the precipitate is washed with ethanol, and the filtrate is concentrated to dryness in vacuo to yield 1-(3-mercapto-2-methylpropanoyl)-L-proline. Rf : 0.35 (Silica gel, Benzene/Acetic acid 3:1); Rf : 0.5 (Silica gel, Methyl-ethylketone/Acetic acid/pyridine/water 14:1:2:1) identical to the compound of Example 34.

reactant | 1-[3-(acetamidomethylthio)-2-methylpropanoyl]-L-proline | 1.4 g | C(C)(=O)NCSCC(C(=O)N1[C@H](C(=O)O)CCC1)C | C12H20N2O4S
reactant | hydrogen sulfide | S | H2S
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | water | 25 ml | O | H2O
product | 1-(3-mercapto-2-methylpropanoyl)-L-proline | SCC(C(=O)N1[C@H](C(=O)O)CCC1)C | C9H15NO3S
